US04272437
In a one neck round bottom flask containing 5-azidopentanoic acid (0.88 g, 0.068 mol) was added thionyl chloride (7.35 ml, 0.102 mol). The reaction mixture was stirred at 60° C. for 2 h and the thionyl chloride was evaporated under reduced pressure to give crude 5-azidopentanoyl chloride. The distillation of crude acyl chloride gave a colorless liquid; 6.93 (62%), bp 111°-4° C. (1.2-1.4 mm); ir (neat) νmax : 2100 (N3) and 1800 cm-1 (C=O); 1Hmr (CDCl3) δ: 3.37 (2H,δ --H), 3.00 (2H, α-H) and 2.1-1.2 ppm (4H, β--H and γ--H).

reactant | 5-azidopentanoic acid | 0.068 mol, 0.88 g | N(=[N+]=[N-])CCCCC(=O)O | C5H9N3O2
reactant | thionyl chloride | 0.102 mol, 7.35 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-azidopentanoyl chloride | N(=[N+]=[N-])CCCCC(=O)Cl | C5H8ClN3O
